US04446133
Example 3 [1-(4-chlorophenyl)-4-diethylcarbamoylpiperazine]
In 40 ml of methylene chloride was dissolved 4.0 g (0.02 mole) of 1-(4-chlorophenyl)piperazine at room temperature. Then, a solution of 3.0 g (0.022 mole) of diethylcarbamoyl chloride in 30 ml off methylene chloride was dropped to the above solution over a period of 30 minutes and the mixture was stirred for 4 hours at room temperature. The precipitate was removed and the filtrate was made alkaline by addition of 30 ml of a 35% aqueous solution of sodium hydroxide and extracted with 50 ml of methylene chloride. The organic layer was dried with anhydrous sodium sulfate and the solvent was removed by distillation under reduced pressure to obtain crude 1-(4-chlorophenyl)-4-diethylcarbamylpiperazine as the residue. The low-boiling-point component was removed by distillation under reduced pressure and the residue was recrystallized from n-hexane to obtain 1.8 g of a purified product having a melting point of 63° to 64° C. The yield was 29.9%. The elementary analysis values are as follows.

reactant | 1-(4-chlorophenyl)piperazine | 0.02 mole, 4.0 g | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
reactant | diethylcarbamoyl chloride | 0.022 mole, 3.0 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-chlorophenyl)-4-diethylcarbamoylpiperazine | 1.8 g, yield was 29.9% | ClC1=CC=C(C=C1)N1CCN(CC1)C(N(CC)CC)=O | C15H22ClN3O
